US04839365
To a mixture of 110 mg (0.483 mmol) of 3-carboxy-7-chloromethylthieno[2, 3-c]pyridine (i -5), 2 ml of dichloromethane and 2 drops of anhydrous DMF was added 0.1 ml (2.8 equivalents) of thionyl chloride, and the mixture was stirred for 2.5 hr. at room temperature. Then the solution was treated with 3 ml of anhydrous methanol, stirred for 30 min. at room temperature and refluxed for 2 min. After concentration under reduced pressure, 2 ml of anhydrous DMF, 88 mg (1.2 equivalents) of 2-mercaptobenzimidazole and 536 mg (8 quivalents) of anhydrous K2CO3 were added to the solution and the mixture was stirred for 4 hr. at room temperature. After concentration under reduced pressure, the mixture was extracted with ethyl acetate and subjected to silica gel column chromatography, eluting with CH2Cl2 --ethyl acetate. From the eluate, 140 mg (Yield : 81.5%) of 2-[(3-methoxycarbonylthieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole (Ia-10) was obtained as a foamy product.

reactant | 3-carboxy-7-chloromethylthieno[2, 3-c]pyridine | 0.483 mmol, 110 mg | C(=O)(O)C1=CSC2=C(N=CC=C21)CCl | C9H6ClNO2S
reactant | thionyl chloride | 0.1 ml, 2.8 equivalents | S(=O)(Cl)Cl | Cl2OS
reactant | 2-mercaptobenzimidazole | 88 mg, 1.2 equivalents | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | K2CO3 | 536 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-[(3-methoxycarbonylthieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole | 140 mg, 81.5% | COC(=O)C1=CSC2=C(N=CC=C21)CSC=2NC1=C(N2)C=CC=C1 | C17H13N3O2S2
